US05733923
2-Ethyl-4-methoxy-1H-indole (4.2 g, 24 mmol) was dissolved in 30 mL of DMF and 960 mg (24 mmol) of 60% NaH/mineral oil was added. After 1.5 hours, 2.9 mL (24 mmol) of benzyl bromide was added. After 4 hours, the mixture was diluted with water and extracted twice with ethyl acetate. The combined ethyl acetate was washed with brine, dried (MgSO4) and concentrated at reduced pressure. The residue was chromatographed on silica gel and eluted with 20% EtOAc/hexane to give 3.1 g (49% yield) of 2-ethyl-4-methoxy-1-(phenylmethyl)-1H-indole.

reactant | 2-Ethyl-4-methoxy-1H-indole | 24 mmol, 4.2 g | C(C)C=1NC2=CC=CC(=C2C1)OC | C11H13NO
reactant | NaH | 24 mmol, 960 mg | [H-].[Na+]
reactant | benzyl bromide | 24 mmol, 2.9 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-ethyl-4-methoxy-1-(phenylmethyl)-1H-indole | 3.1 g, 49% yield | C(C)C=1N(C2=CC=CC(=C2C1)OC)CC1=CC=CC=C1 | C18H19NO
